US07956060B2
Commercially available ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate (9.70 g) was reacted with methylamine in a similar manner to the second stage in Step 1 of Reference Example 1. The reaction mixture was purified by silica gel chromatography (chloroform/methanol) to give ethyl 4-methylamino-2-methylthiopyrimidine-5-carboxylate (8.37 g, yield 88%). Subsequently, the resulting compound was treated in a similar manner to Steps 1 and 2 of Reference Example 1 to give 4-methylamino-2-methylthiopyrimidine-5-carbohydrazide (5.78 g, yield 74%).

reactant | ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate | 9.70 g | ClC1=NC(=NC=C1C(=S)OCC)C | C8H9ClN2OS
reactant | methylamine | CN | CH5N
product | ethyl 4-methylamino-2-methylthiopyrimidine-5-carboxylate | 8.37 g, yield 88% | CNC1=NC(=NC=C1C(=S)OCC)C | C9H13N3OS
